US05489697
acylating 5,7-dihydroxy-4-propylcoumarin with propionyl chloride in the presence of a Lewis acid to form 4-propyl-5,7-dihydroxy-8-propionylcoumarin;

reactant | 5,7-dihydroxy-4-propylcoumarin | OC1=C2C(=CC(OC2=CC(=C1)O)=O)CCC | C12H12O4
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 4-propyl-5,7-dihydroxy-8-propionylcoumarin | C(CC)C1=CC(OC2=C(C(=CC(=C12)O)O)C(CC)=O)=O | C15H16O5
